US08372864B2
2.1.1: N-[2-(2-Bromophenyl)ethyl]heptan-4-amine
10 g of 2-bromophenethylamine and 5.71 g of 4-heptanone are dissolved in 250 cm3 of 1,2-dichloroethane at a temperature close to 20° C. 14.84 g of sodium triacetoxyborohydride and 2.9 cm3 of glacial acetic acid are added to the reaction medium. Stirring is continued for 20 h. 300 cm3 of 1M sodium hydroxide are added to the reaction medium. The aqueous phase is extracted with 3 lots of 100 cm3 of ethyl acetate. The organic phases are combined and washed with 4 lots of 100 cm3 of water then 100 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated using a rotary evaporator under reduced pressure (5 kPa). The yellow liquid obtained is purified by flash chromatography over silica (column: 400 g; particle size: 20-40 μm, spherical; flow rate: 30 cm3/min; eluent: 100% heptane to 70% ethyl acetate/30% heptane gradient). After concentrating the fractions under reduced pressure, 17.33 g of N-[2-(2-bromophenyl)ethyl]heptan-4-amine are obtained.

reactant | 2-bromophenethylamine | 10 g | BrC1=C(CCN)C=CC=C1 | C8H10BrN
reactant | 4-heptanone | 5.71 g | CCCC(CCC)=O | C7H14O
reactant | sodium triacetoxyborohydride | 14.84 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1M, 300 cm3 | [OH-].[Na+]
solvent | 1,2-dichloroethane | 250 cm3 | ClCCCl | C2H4Cl2
solvent | acetic acid | 2.9 cm3 | C(C)(=O)O | C2H4O2
product | N-[2-(2-Bromophenyl)ethyl]heptan-4-amine | BrC1=C(C=CC=C1)CCNC(CCC)CCC | C15H24BrN
